US04167567
A mixture of 1.30 g (0.0114 mol) of 2-chloropyrimidine, 3.50 g (0.00875 mol) of 1-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine, and 1.2 g of triethylamine in 50 ml of ethanol is stirred at 50° C. for 15 hours and at reflux for 8 hours. The mixture is partitioned between methylene chloride and aqueous 1 N sodium hydroxide. The organic phase is dried and concentrated. The residue is re-crystallized from methylene chloride and ethanol to yield 4.00 g of 4-(2-pyrimidinyl)-1-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine, of melting point 246°-247.5° C.

reactant | 2-chloropyrimidine | 0.0114 mol, 1.30 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 1-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 0.00875 mol, 3.50 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(2-pyrimidinyl)-1-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 4.00 g | N1=C(N=CC=C1)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C25H21F3N6O
